US07572809B2
NaH (155 mg) was added to a solution of benzenethiol (500 mg) in DME (2 ml) and the mixture was stirred for 1 hour at room temperature. (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (100 mg) was then added, and the resulting mixture was heated at 150° C. for 30 minutes under microwave irradiation. The reaction mixture was acidified to pH=7 with acetic acid and purified by preparative LC-MS to give 20 mg of (5-methyl-1H-pyrazol-3-yl)-(1-phenylsulfanyl-isoquinolin-3-yl)-amine as a yellow solid. LC-MS: m/e 333(MH+).

reactant | NaH | 155 mg | [H-].[Na+]
reactant | benzenethiol | 500 mg | C1(=CC=CC=C1)S | C6H6S
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 100 mg | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DME | 2 ml | COCCOC | C4H10O2
product | (5-methyl-1H-pyrazol-3-yl)-(1-phenylsulfanyl-isoquinolin-3-yl)-amine | 20 mg | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)SC1=CC=CC=C1 | C19H16N4S
